US20010027196A1
4-[2-(2-Amino-5-chloro-6-furan-2-yl-pyrimidin-4-yl-amino)-ethyl]-phenol
From 5-chloro-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine and tyramine in DME. ES-MS m/e (%): 333 (M{37Cl}+H+, 40), 331 (M{35C}+H+, 100).

reactant | 5-chloro-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | ClC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8ClN3O2S
reactant | tyramine | NCCC1=CC=C(C=C1)O | C8H11NO
solvent | DME | COCCOC | C4H10O2
product | 4-[2-(2-Amino-5-chloro-6-furan-2-yl-pyrimidin-4-yl-amino)-ethyl]-phenol | NC1=NC(=C(C(=N1)NCCC1=CC=C(C=C1)O)Cl)C=1OC=CC1 | C16H15ClN4O2
